US07834021B2
4-(1,4-Dioxaspiro[4.5]dec-8-yl)benzoic acid.
To a solution of 5.3 g of 4-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)benzoic acid in 30 mL of methanol was added 2.3 g of Pd/C (10% wt). The suspension was stirred under H2 (balloon) for 1 h, filtered through celite pad and concentrated to dryness to give the desired product (5.2 g, yield: 97%) as a white solid: 1H NMR (CDCl3) δ 8.06-8.01 (2H, m), 7.58-7.53 (2H, m), 4.02 (4H, s), 2.73-2.67 (2H, m), 2.70-2.61 (1H, m), 1.93-1.64 (8H, m); MS: 262 (M+1)+.

reactant | 4-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)benzoic acid | 5.3 g | O1CCOC12CC=C(CC2)C2=CC=C(C(=O)O)C=C2 | C15H16O4
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | 2.3 g | [Pd] | Pd
product | 4-(1,4-Dioxaspiro[4.5]dec-8-yl)benzoic acid | 5.2 g, yield: 97% | O1CCOC12CCC(CC2)C2=CC=C(C(=O)O)C=C2 | C15H18O4
